US06350749B1
To a solution of 5-(2,5-dichlorophenyl)cyclohexane-1,3-dione (1.5 g), 4-dimethylaminopyridine (1.1 g) and acetic acid (0.63 g) in dimethylformamide (60 ml) was added dicyclohexylcarbodiimide (1.3 g), and the mixture was stirred at room temperature for 36 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The solution was extracted with 1N sodium hydroxide solution, and the aqueous layer was filtered. Insoluble materials were filtered off, and the filtrate was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 5-(2,5-dichlorophenyl)-2-(1-hydroxyethylidene)cyclohexane-1,3-dione (1.4 g), which was dissolved in ethanol (30 ml). To the solution was added hydrazine hydrate (0.26 g), and the mixture was refluxed for 30 minutes. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (ethyl acetate-hexane) to give 6-(2,5-dichlorophenyl)-3-methyl-4,5,6,7-tetrahydroindazol-4-one (1.2 g) as colorless crystals.

reactant | 5-(2,5-dichlorophenyl)cyclohexane-1,3-dione | 1.5 g | ClC1=C(C=C(C=C1)Cl)C1CC(CC(C1)=O)=O | C12H10Cl2O2
reactant | acetic acid | 0.63 g | C(C)(=O)O | C2H4O2
reactant | dicyclohexylcarbodiimide | 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 1.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 5-(2,5-dichlorophenyl)-2-(1-hydroxyethylidene)cyclohexane-1,3-dione | 1.4 g | ClC1=C(C=C(C=C1)Cl)C1CC(C(C(C1)=O)=C(C)O)=O | C14H12Cl2O3
